US05594021
2-Benzylbenzo[b]thiophene was prepared by the method of Example 40A with benzo[b]thiophene (7.5 mmoles, 1.0 g), t-BuLi (1.7M, 11.2 mmoles, 6.6 ml), benzyl bromide (10.2 mmoles, 1.3 ml) and THF (20 ml). Flash chromatography (hexanes) provided 0.66 g (39%) of a yellow solid.

reactant | benzo[b]thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 11.2 mmoles, 1.7M, 6.6 ml | [Li]C(C)(C)C
reactant | benzyl bromide | 10.2 mmoles, 1.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Benzylbenzo[b]thiophene | C(C1=CC=CC=C1)C1=CC2=C(S1)C=CC=C2 | C15H12S
